US06313137B1
Synthesis of methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate
Methyl 5,6-diaminonicotinate (0.9 g, 5.4 mmol) and 3-bromo-2-butanon (0.9 g, 6.0 mmol) were added to acetonitril (30 ml) and refluxed for 24 h. Upon cooling some of the product was filtered off as hydrobromide salt. 20 ml of the filtrate was evaporated under reduced pressure and diethyl ether was added. More product was filtrated off as hydrobromide salt. The salt was dissolved in methylene chloride and washed with a bicarbonate solution. The organic layer was separated, dried over Na2SO4 and evaporated under reduced pressure to give 0.7 g (59%) of the desired compound.

reactant | Methyl 5,6-diaminonicotinate | 5.4 mmol, 0.9 g | NC=1C(=NC=C(C(=O)OC)C1)N | C7H9N3O2
reactant | 3-bromo-2-butanon | 6.0 mmol, 0.9 g | BrC(C(C)=O)C | C4H7BrO
solvent | acetonitril | 30 ml | C(C)#N | C2H3N
product | methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 0.7 g, 59% | NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C11H13N3O2
